US08303944B2
1-((S)-1-((S)-2-(5-(4-bromophenyl)-1H-imidazol-2-yl)pyrrolidin-1-yl)-3-methyl-1-oxobutan-2-yl)thiourea
To a solution of (S)-2-amino-1-((S)-2-(5-(4-bromophenyl)-1H-imidazol-2-yl)pyrrolidin-1-yl)-3-methylbutan-1-one (1.530 g, 3.91 mmol) in CH2Cl2 (10 mL) was added O-(9H-fluoren-9-yl)methyl carbonisothiocyanatidate (1.100 g, 3.91 mmol) as a solid in one portion. The mixture was allowed to stir at room temperature for 12 h. Piperidine (2 mL) was added to the mixture and it was allowed to stir at room temperature for 1 h. A further portion of piperidine (2 mL) was added and the solution allowed to stir 1 h. The solution was concentrated to dryness and the residue was purified by column chromatography (biotage, eluting with 5:4.5:0.5 hex:EtOAc:MeOH, and then 5% MeOH in EtOAc). The title compound as obtained as a light yellow glass (1.30 g, 74%). 1HNMR (300 MHz, DMSO-d6) δ 11.81 (s, H), 7.65 (d, J=8.8 Hz), 7.63-7.71 (m, overlap with previous peak, 2H total), 7.42-7.56 (m, 2H), 7.10-7.14 (m, 1H), 5.06 (dd, J=7.0, 3.0 Hz, 1H), 4.94 (app t, J=8.0 Hz, 1H), 4.72-4.76 and 4.56-4.62 (m, 1H, rotamers, 1:1 ratio), 3.77-3.90 (m, 1H), 2.07-2.14 (m, 2H), 1.90-1.98 (m, 3H), 0.93 (d, J=7.0 Hz, 3H), 0.84 (d, J=7.0 Hz, 3H). LCMS: Anal. Calcd. for C19H24BrN5OS: 449, 451. found: 450, 452 (M+H)+.

reactant | (S)-2-amino-1-((S)-2-(5-(4-bromophenyl)-1H-imidazol-2-yl)pyrrolidin-1-yl)-3-methylbutan-1-one | 3.91 mmol, 1.530 g | N[C@H](C(=O)N1[C@@H](CCC1)C=1NC(=CN1)C1=CC=C(C=C1)Br)C(C)C | C18H23BrN4O
reactant | O-(9H-fluoren-9-yl)methyl carbonisothiocyanatidate | 3.91 mmol, 1.100 g | C(OCC1C2=CC=CC=C2C=2C=CC=CC12)(=O)N=C=S | C16H11NO2S
reactant | Piperidine | 2 mL | N1CCCCC1 | C5H11N
reactant | piperidine | 2 mL | N1CCCCC1 | C5H11N
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 1-((S)-1-((S)-2-(5-(4-bromophenyl)-1H-imidazol-2-yl)pyrrolidin-1-yl)-3-methyl-1-oxobutan-2-yl)thiourea | BrC1=CC=C(C=C1)C1=CN=C(N1)[C@H]1N(CCC1)C([C@H](C(C)C)NC(=S)N)=O | C19H24BrN5OS
